US09193935B2
2.9: ((4E)-3-Methyl-5-(2,6,6-trimethylcyclohex-1-enyl)penta-2,4-dienyl)benzene
Starting from phenethyltriphenylphosphonium bromide (4.44 g, 9.93 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 6.3 mL, 10.1 mmol, 1.0 equiv.) and (E)-4-(2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-one (2.86 g, 14.9 mmol, 1.5 equiv.), 1.69 g (61%) of the title compound as a light yellow oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 98:2).

reactant | phenethyltriphenylphosphonium bromide | 9.93 mmol, 4.44 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 10.1 mmol, 1.6 M, 6.3 mL, 1.0 equiv. | [Li]CCCC
reactant | (E)-4-(2,6,6-trimethylcyclohex-1-enyl)but-3-en-2-one | 14.9 mmol, 2.86 g, 1.5 equiv. | CC1=C(C(CCC1)(C)C)/C=C/C(C)=O | C13H20O
product | ((4E)-3-Methyl-5-(2,6,6-trimethylcyclohex-1-enyl)penta-2,4-dienyl)benzene | 1.69 g, 61% | CC(=CCC1=CC=CC=C1)\C=C\C1=C(CCCC1(C)C)C | C21H28
